US07772253B2
2-{4-[1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-ylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester
In analogy to the procedure described in example 50k), 2-methyl-2-[4-(piperidin-4-ylcarbamoyl)-phenyl]-propionic acid methyl ester [prepared from 4-[4-(1-methoxycarbonyl-1-methyl-ethyl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester by treatment with TFA in dichloromethane in analogy to the preparation described in example 50i)] was reacted with 3-ethoxy-4-methoxybenzaldehyde, sodium cyanoborohydride, N-ethyl-diisopropylamine and acetic acid in ethanol at 50° C. to yield the title compound as colorless foam. MS: 469.3 (MH+).

reactant | 2-methyl-2-[4-(piperidin-4-ylcarbamoyl)-phenyl]-propionic acid methyl ester | COC(C(C)(C1=CC=C(C=C1)C(NC1CCNCC1)=O)C)=O | C17H24N2O3
reactant | 4-[4-(1-methoxycarbonyl-1-methyl-ethyl)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC=C(C=C1)C(C)(C)C(=O)OC)=O | C22H32N2O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-ethoxy-4-methoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{4-[1-(3-Ethoxy-4-methoxy-benzyl)-piperidin-4-ylcarbamoyl]-phenyl}-2-methyl-propionic acid methyl ester | COC(C(C)(C)C1=CC=C(C=C1)C(NC1CCN(CC1)CC1=CC(=C(C=C1)OC)OCC)=O)=O | C27H36N2O5
